US09023847B2
183. 3-(7H-Pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid (2-benzylamino-ethyl)-amide
The title compound was prepared in an analogous manner as 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid benzylamide using N-benzylethane-1,2-diamine instead of benzylamine and obtained in 61% yield. 1H NMR (DMSO-d6) 11.96 (br s, 1H), 11.41 (s, 1H), 8.46 (d, J=5.5 Hz, 1H), 8.38 (s, 1H), 8.19-8.14 (m, 1H), 7.75 (d, J=5.5 Hz, 1H), 7.38-7.18 (m, 7H), 6.46-6.43 (m, 1H), 3.73 (s, 2H) 3.37 (dd, J=12.4, 6.6 Hz, 2H), 2.89 (t, J=6.6 Hz, 2H); MS (m/z) 393 [M+H]+.

reactant | 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C=1SC=CC1NC=1C2=C(N=CN1)NC=C2 | C18H15N5OS
reactant | N-benzylethane-1,2-diamine | C(C1=CC=CC=C1)NCCN | C9H14N2
product | 3-(7H-Pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid (2-benzylamino-ethyl)-amide | 61% yield | C(C1=CC=CC=C1)NCCNC(=O)C=1SC=CC1NC=1C2=C(N=CN1)NC=C2 | C20H20N6OS
